US06903086B2
60% NaH in oil (950 mg, 23.8 mmol) was added to isopropyl alcohol (4.1 mL) in THF (20 mL) under a nitrogen atmosphere. After stirring for 30 min, 5-fluoro-2-nitrobenzoic acid (2.0 g, 10.8 mmol) was added, and the mixture was heated at reflux for 6 h. Following addition of 2N HCl to adjust the pH to 2, the mixture was extracted, washed with brine, dried (Na2SO4) and concentrated to dryness. Purification by chromatography gave 950 mg of 5-isopropoxy-2-nitro-benzoic acid.

reactant | NaH | [H-].[Na+]
reactant | isopropyl alcohol | 4.1 mL | C(C)(C)O | C3H8O
reactant | 5-fluoro-2-nitrobenzoic acid | 10.8 mmol, 2.0 g | FC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4FNO4
reactant | HCl | 2N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-isopropoxy-2-nitro-benzoic acid | 950 mg | C(C)(C)OC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C10H11NO5
